US05679696
A solution of N-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-(methylthio)benzamide (1 g; that is prepared as described in Example 20) in dichloromethane (100 mL), containing molecular sieve 4A, under nitrogen, is treated with 2,6-di-tert-butyl-4-methylpyridine (1.28 g). The resulting mixture is stirred at room temperature for 1.5 hours, and then it is cooled to 0° C. (in an ice/salt bath) and treated with xenon difluoride (0.51 g) in one portion. After stirring for a further 2 hours in the cold, the mixture is filtered, and the filtrate is washed with saturated aqueous ammonium chloride solution. The organic phase is dried over sodium sulfate and evaporated. The resulting residue is subjected to flash chromatography, eluting with a mixture of ethyl acetate and pentane (2:3 v/v), to give impure N-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-(fluoromethylthio)-benzamide (600 mg). It is further purified by reversed phase HPLC on octadecylsilyl silica gel, eluting with a mixture of methanol and water (7:3 v/v), to give N-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-(fluoromethylthio)benzamide (519 mg), in the form of a white solid, m.p. 111°-113° C. [Elemental analysis: C,51.50; H,4.12; N,6.74%; calculated: C,52.05; H,4.12; N,6.74%].

reactant | N-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-(methylthio)benzamide | ClC=1C=NC=C(C1NC(C1=CC(=C(C=C1)SC)OC1CCCC1)=O)Cl | C18H18Cl2N2O2S
reactant | 2,6-di-tert-butyl-4-methylpyridine | 1.28 g | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | xenon difluoride | 0.51 g | [Xe](F)F | F2Xe
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-(fluoromethylthio)-benzamide | 600 mg | ClC=1C=NC=C(C1NC(C1=CC(=C(C=C1)SCF)OC1CCCC1)=O)Cl | C18H17Cl2FN2O2S
